US07893088B2
Potassium carbonate (160 mg) and methanesulfonic acid cis-4-tert-butoxycarbonylaminocyclohexyl ester (140 mg, 0.47 mmol) were added to a solution of N-(6-mercaptoisoquinolin-1-yl)benzamide residue in DMA (4 ml). The mixture was irradiated in a microwave at 120° C. for 600 s then concentrated in vacuo to give a residue. The residue was purified by preparative HPLC to give trans-[4-(1-benzoylaminoisoquinolin-6-ylsulfanyl)cyclohexyl]carbamic acid tert-butyl ester. Glacial acetic acid (1 ml) and 6M hydrochloric acid (2 ml) were added to the trans-[4-(1-benzoylaminoisoquinolin-6-ylsulfanyl)cyclohexyl]carbamic acid tert-butyl ester and the mixture was refluxed for 24 h. The mixture was then concentrated in vacuo to give a residue. The residue was loaded onto a pre-acidified SCX column using methanol and then eluted with 2M ammonia in methanol to give cude trans-6-(4-aminocyclohexylsulfanyl)isoquinolin-1-ylamine, which was further purified using prep-HPLC (9 mg), EIMS: m/z=274.5 [M+H]+

reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 6M, 2 ml | Cl | ClH
reactant | trans-[4-(1-benzoylaminoisoquinolin-6-ylsulfanyl)cyclohexyl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)SC=1C=C2C=CN=C(C2=CC1)NC(C1=CC=CC=C1)=O)=O | C27H31N3O3S
solvent | methanol | CO | CH4O
product | trans-6-(4-aminocyclohexylsulfanyl)isoquinolin-1-ylamine | N[C@@H]1CC[C@H](CC1)SC=1C=C2C=CN=C(C2=CC1)N | C15H19N3S
